US09416135B2
To a solution of 1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine (7.50 mg, 0.03 mmol) in DMSO (1 mL) were added 1-(2-chloro-4-(trifluoromethyl)pyrimidin-5-yl)ethanone (11.5 mg, 0.05 mmol) and DIEA (9.90 mg, 0.08 mmol) under N2. The mixture was stirred at 100° C. for 2 h. The mixture was diluted with water (10 mL) and extracted with EtOAc (3×10 mL). The combined organic layers were washed with brine (10 mL), dried over anhydrous Na2SO4, filtered, concentrated and then purified by preparative HPLC to afford a racemic mixture of 1-(2-(1-isopropyl-7-(methylsulfonyl)-3,4-dihydrobenzo[4,5]imidazo[1,2-a]pyrazin-2(1H)-yl)-4-(trifluoromethyl)pyrimidin-5-yl)ethanone (2.40 mg, 20% yield) as a white solid. LC-MS m/z 482.1 [M+H]+. 1H NMR (CD3OD 400 MHz): δ 8.76 (s, 1H), 8.02 (s, 1H), 7.91 (d, J=8.4 Hz, 1H), 7.84-7.83 (m, 1H), 6.15 (d, J=8.0 Hz, 1H), 5.45 (d, J=13.6 Hz, 1H), 4.42-4.36 (m, 1H), 4.20 (brs, 1H), 3.91-3.80 (m, 1H), 3.09 (s, 3H), 2.60-2.46 (m, 4H), 1.34 (d, J=6.8 Hz, 3H), 1.09 (d, J=6.0 Hz, 3H).

reactant | 1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine | 0.03 mmol, 7.50 mg | C(C)(C)C1C=2N(CCN1)C1=C(N2)C=CC(=C1)S(=O)(=O)C | C14H19N3O2S
reactant | 1-(2-chloro-4-(trifluoromethyl)pyrimidin-5-yl)ethanone | 0.05 mmol, 11.5 mg | ClC1=NC=C(C(=N1)C(F)(F)F)C(C)=O | C7H4ClF3N2O
reactant | DIEA | 0.08 mmol, 9.90 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | water | 10 mL | O | H2O
product | 1-(2-(1-isopropyl-7-(methylsulfonyl)-3,4-dihydrobenzo[4,5]imidazo[1,2-a]pyrazin-2(1H)-yl)-4-(trifluoromethyl)pyrimidin-5-yl)ethanone | 2.40 mg, 20% yield | C(C)(C)C1C=2N(CCN1C1=NC=C(C(=N1)C(F)(F)F)C(C)=O)C1=C(N2)C=CC(=C1)S(=O)(=O)C | C21H22F3N5O3S
